US08664263B2
Step 2: Method of Synthesizing N-(Dibenzofuran-2-yl)-phenylamine (Abbreviation: FrA)
The Rf values of the object of the synthesis, 2-iododibenzofuran, and aniline were respectively 0.28, 0.59, and 0.07, which were found by silica gel thin layer chromatography (TLC) (ethyl acetate:hexane (1:10) as the developing solvent).

reactant | 2-iododibenzofuran | IC1=CC2=C(OC3=C2C=CC=C3)C=C1 | C12H7IO
reactant | aniline | NC1=CC=CC=C1 | C6H7N
solvent | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
product | N-(Dibenzofuran-2-yl)-phenylamine | C1=C(C=CC=2OC3=C(C21)C=CC=C3)NC3=CC=CC=C3 | C18H13NO
